US05240943
N-[1-[2-(3,4-dihydro-2H-1-benzopyran-4-yl)ethyl]-4-piperidinyl]-3-pyridinecarboxamide
N-[1-[2-(3,4-dihydro-2H-1-benzopyran-4-yl)ethyl]-4-aminopiperidine was coupled to pyridine-3-carboxylic acid utilizing the isobutylchloroformate protocol described in Example 6. The resulting residue was further purified by chromatography on silica (eluant: chloroform/ethanol/ammonium hydroxide; 85/14/1) and crystallization from diethyl ether to afford the title compound (15% yield), mp=126-8°, Anal: C22H27N3O2 0.25 H2O, Calc. C, 71.42; H, 7.49; N, 11.36; Found: C, 71.25; H, 7.50; N, 11.19.

reactant | 1-[2-(3,4-dihydro-2H-1-benzopyran-4-yl)ethyl]-4-aminopiperidine | O1CCC(C2=C1C=CC=C2)CCN2CCC(CC2)N | C16H24N2O
reactant | pyridine-3-carboxylic acid | N1=CC(=CC=C1)C(=O)O | C6H5NO2
reactant | isobutylchloroformate | C(C(C)C)OC(=O)Cl | C5H9ClO2
product | N-[1-[2-(3,4-dihydro-2H-1-benzopyran-4-yl)ethyl]-4-piperidinyl]-3-pyridinecarboxamide | 15% yield | O1CCC(C2=C1C=CC=C2)CCN2CCC(CC2)NC(=O)C=2C=NC=CC2 | C22H27N3O2
